US05817694
A solution of 15.02 g of dimethyl malonate in 50 ml of MeOH was cooled to 15° C. and treated dropwise over a 2 h period with a solution of 2.4 g of LiOH in 20 ml of water. The mixture was stirred for 30 min after the addition was completed and then stripped of solvent under reduced pressure. The residue was taken up in 100 ml of hot MeOH, the solution cooled to room temperature and filtered. The filtrate was stripped of solvent to dryness. The residue was suspended in 100 ml of toluene and stripped further to remove the remaining water. The solution was cooled to room temperature and the precipitate collected by filtration to give 9.66 g (68%) of lithium mono methyl malonate. IR (cm-1): 1730, 1605, 1580.

reactant | dimethyl malonate | 15.02 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | LiOH | 2.4 g | [Li+].[OH-]
solvent | MeOH | 50 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
solvent | MeOH | 100 ml | CO | CH4O
product | lithium mono methyl malonate | 9.66 g, 68% | C(CC(=O)[O-])(=O)OC.[Li+] | InChI=1S/C4H6O4.Li/c1-8-4(7)2-3(5)6;/h2H2,1H3,(H,5,6);/q;+1/p-1
